US05700824
Preparation of 3-(2-chloro-6-fluorophenyl)-5-[2-chloro-4-(4-trifluoromethoxyphenyl)phenyl]-1-methyl-1H-1,2,4-triazole (Compound No. 158)
A mixture of N-methyl-N-(methanesulfonyl)-2-chloro-6-fluorobenzohydrazonoyl chloride (1.50 g), 4-(4-trifluoromethoxyphenyl)benzonitrile (1.56 g), anhydrous iron (III) chloride (0.90 g) and chlorobenzene (20 ml) is stirred at an oil bath temperature of 140° C. for 1 hour. After cooling, the reaction mixture is dissolved in chloroform (300 ml), washed with dilute hydrochrolic acid, dilute aqueous solution of sodium hydroxide and saline in this order, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The concentrate is purified by silica gel column chromatography using mixed solvent of hexane-ethyl acetate as eluent to give 1.80 g of desired compound (refractive index: 1.5925).

reactant | N-methyl-N-(methanesulfonyl)-2-chloro-6-fluorobenzohydrazonoyl chloride | 1.50 g | CN(N=C(C1=C(C=CC=C1F)Cl)Cl)S(=O)(=O)C | C9H9Cl2FN2O2S
reactant | 4-(4-trifluoromethoxyphenyl)benzonitrile | 1.56 g | FC(OC1=CC=C(C=C1)C1=CC=C(C#N)C=C1)(F)F | C14H8F3NO
reactant | chlorobenzene | 20 ml | ClC1=CC=CC=C1 | C6H5Cl
reactant | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | iron (III) chloride | 0.90 g | [Fe](Cl)(Cl)Cl
product | 3-(2-chloro-6-fluorophenyl)-5-[2-chloro-4-(4-trifluoromethoxyphenyl)phenyl]-1-methyl-1H-1,2,4-triazole | 1.80 g | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C1=C(C=C(C=C1)C1=CC=C(C=C1)OC(F)(F)F)Cl)C | C22H13Cl2F4N3O
